US09284298B2
1-tert-butyl-5-{2-[4-(piperazin-1-yl)phenoxy]pyrimidin-4-yl}-1H-pyrazole-3-carboxamide [(Ia) R1=4-(piperazin-yl)phenyl, X=—O—, R2=t-butyl, R3=CONH2, R4=H] cpd 26
50 mg (0.155 mmol) of 1-tert-butyl-5-[2-(methylsulfonyl)pyrimidin-4-yl]-1H-pyrazole-3-carboxamide were dissolved in 1.5 mL of dry DMF; then, 30 mg (0.17 mmol) of 4-piperazin-1-yl-phenol and 64 mg (0.464 mmol) of potassium carbonate were added. The final suspension was stirred at 70° C. for 1 h then the final mixture was purified by preparative HPLC/MS to provide the title compound (20%).

reactant | 1-tert-butyl-5-[2-(methylsulfonyl)pyrimidin-4-yl]-1H-pyrazole-3-carboxamide | 0.155 mmol, 50 mg | C(C)(C)(C)N1N=C(C=C1C1=NC(=NC=C1)S(=O)(=O)C)C(=O)N | C13H17N5O3S
reactant | 4-piperazin-1-yl-phenol | 0.17 mmol, 30 mg | N1(CCNCC1)C1=CC=C(C=C1)O | C10H14N2O
reactant | potassium carbonate | 0.464 mmol, 64 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-tert-butyl-5-{2-[4-(piperazin-1-yl)phenoxy]pyrimidin-4-yl}-1H-pyrazole-3-carboxamide | 20% | C(C)(C)(C)N1N=C(C=C1C1=NC(=NC=C1)OC1=CC=C(C=C1)N1CCNCC1)C(=O)N | C22H27N7O2
